US07834051B2
2-chloro-4-[(2S,3S)-2-ethyl-3-hydroxy-5-oxopyrrolidin-1-yl]-3-fluorobenzonitrile
A solution of (4S,5S)-4-(tert-butyldimethylsilyloxy)-5-ethylpyrrolidin-2-one (300 mg), 2-chloro-3-fluoro-4-iodobenzonitrile (416 mg), cesium carbonate (602 mg), tris(dibenzylideneacetone)dipalladium(0) (56.4 mg) and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (107 mg) in dioxane (10 mL) was stirred at 80° C. overnight under an argon atmosphere. After allowing to room temperature, water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (eluent: hexane→hexane-ethyl acetate=2:1). The obtained residue was dissolved in ethanol (10 mL)-tetrahydrofuran (10 mL), concentrated hydrochloric acid (2.06 mL) was added, and the mixture was stirred overnight at room temperature. The mixture was neutralized with saturated aqueous sodium hydrogen carbonate solution under ice-cooling, and extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent: hexane→ethyl acetate), and recrystallized from hexane-ethyl acetate to give the title compound as colorless crystals (yield: 86 mg, 25%).

reactant | (4S,5S)-4-(tert-butyldimethylsilyloxy)-5-ethylpyrrolidin-2-one | 300 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1CC(N[C@H]1CC)=O | C12H25NO2Si
reactant | 2-chloro-3-fluoro-4-iodobenzonitrile | 416 mg | ClC1=C(C#N)C=CC(=C1F)I | C7H2ClFIN
reactant | cesium carbonate | 602 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 107 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 56.4 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | O | H2O
product | 2-chloro-4-[(2S,3S)-2-ethyl-3-hydroxy-5-oxopyrrolidin-1-yl]-3-fluorobenzonitrile | yield: 86 mg, 25% | ClC1=C(C#N)C=CC(=C1F)N1[C@H]([C@H](CC1=O)O)CC | C13H12ClFN2O2
